US04935414
For the preparation of the compound of Example 27, 4-(2-methoxyethoxy)benzophenone is obtained by reaction of 4-hydroxybenzophenone with 2-methoxyethyl chloride at 100° C. in the presence of sodium hydride in dimethylformamide. Further reaction takes place in accordance with Example 1-5. 4-(2-Methoxyethoxy)benzophenone is reduced to 4-(2-methoxyethoxy)benzhydrol using sodium borohydride. 4-(2-Methoxyethoxy)benzhydrol is reacted with thionyl chloride in chloroform to give 4-(2-methoxyethoxy)benzhydryl chloride. 4-(2-methoxyethoxy)benzhydryl chloride is reacted with piperazine in dimethylformamide in the presence of potassium carbonate to give 1-((4-(2-methoxyethoxy)phenyl)phenylmethyl)piperazine.

reactant | 4-(2-Methoxyethoxy)benzophenone | COCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C16H16O3
reactant | 4-(2-methoxyethoxy)benzhydrol | COCCOC1=CC=C(C(C2=CC=CC=C2)O)C=C1 | C16H18O3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-methoxyethoxy)benzhydryl chloride | COCCOC1=CC=C(C(C2=CC=CC=C2)Cl)C=C1 | C16H17ClO2
